US05733481
Under a nitrogen atmosphere, 10.1 g (0.44 mol) of sodium was dissolved in 200 ml of 2,2,2-trifluoro ethanol in 300 ml of a three-necked flask, to which 40 ml (0.38 mol) of p-fluoronitro benzene was dropped and refluxed for 4 hours. After cooling to a room temperature, water was poured (about 1 liter), and precipitated solids were washed with water and dried, to obtain p-(2,2,2-trifluoroethoxy) nitrobenzene (yield: 62%; and melting point: 76.5° C.).

reactant | sodium | 0.44 mol, 10.1 g | [Na] | Na
reactant | p-fluoronitro benzene | 0.38 mol, 40 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | O | H2O
reactant | 2,2,2-trifluoro ethanol | 200 ml | FC(CO)(F)F | C2H3F3O
product | p-(2,2,2-trifluoroethoxy) nitrobenzene | yield: 62% | FC(COC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C8H6F3NO3
